US04918073
(a) 1-Benzyl-4-[4,4-bis(4-fluorophenyl)butyl]-4-hydroxypiperidine
A Grignard solution was prepared from 3.17 g (0.132 mol) of magnesium filings and 42.8 g (0.132 mol) of 4,4-bis(4-fluorophenyl)butyl bromide in 85 ml of absolute tetrahydrofuran. A solution of 25 g (0.132 mol) of distilled N-benzylpiperidone in 130 ml of absolute tetrahydrofuran was then added dropwise in the course of 30 minutes and the mixture was subsequently stirred at room temperature for 1.5 hours. The reaction mixture was poured onto 800 ml of ice, 400 ml of saturated NH4Cl solution were added and the mixture was extracted several times with ether. The extracts were dried and concentrated.

reactant | magnesium | 0.132 mol, 3.17 g | [Mg] | Mg
reactant | 4,4-bis(4-fluorophenyl)butyl bromide | 0.132 mol, 42.8 g | FC1=CC=C(C=C1)C(CCCBr)C1=CC=C(C=C1)F | C16H15BrF2
reactant | N-benzylpiperidone | 0.132 mol, 25 g | C(C1=CC=CC=C1)N1C(CCCC1)=O | C12H15NO
reactant | NH4Cl | 400 ml | [NH4+].[Cl-]
reactant | tetrahydrofuran | 85 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
product | 1-Benzyl-4-[4,4-bis(4-fluorophenyl)butyl]-4-hydroxypiperidine | C(C1=CC=CC=C1)N1CCC(CC1)(O)CCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C28H31F2NO
